US07351733B2
6-Chloro-N-(4-methylphenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one and p-toluidine in a similar manner as described in Example 13 to give 59 mg (41% yield) of a yellow solid. 1H-NMR (CDCl3): δ 8.10 (s, 1H), 7.51 (m, 1H), 7.22 (d, 1H), 7.17-7.06 (m, 3H), 6.72 (d, 2H), 4.82 (m, 1H), 3.74 (s, 1H), 2.74 (m, 2H), 2.33 (s, 3H), 2.27 (m, 1H), 2.07 (m, 1H), 1.98-1.76 (m, 2H); MS m/z 309 (M−1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one | ClC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10ClNO
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
product | 6-Chloro-N-(4-methylphenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=CC=C(C=C1)C | C19H19ClN2
